US08492560B2
A solution of pyrrolidine-2,5-dione (5 g, 50.5 mmol) and 3-bromopropan-1-ol (6.85 ml, 76 mmol) in acetonitrile (80 ml) containing potassium carbonate (14 g, 100 mmol) was refluxed overnight. After cooling, the mixture was filtered and the filtrate was evaporated. The residue was dissolved in methylene chloride and purified by column chromatography, eluting with ethylacetate/petroleum ether (4/1). After evaporation of the volatiles, the residue was distilled at 100-125° C. under about 0.1 mm Hg to give 1-(3-hydroxypropyl)pyrrolidin-2,5-dione (2.6 g, 34%).

reactant | pyrrolidine-2,5-dione | 50.5 mmol, 5 g | N1C(CCC1=O)=O | C4H5NO2
reactant | 3-bromopropan-1-ol | 76 mmol, 6.85 ml | BrCCCO | C3H7BrO
reactant | potassium carbonate | 100 mmol, 14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 1-(3-hydroxypropyl)pyrrolidin-2,5-dione | 2.6 g, 34% | OCCCN1C(CCC1=O)=O | C7H11NO3
